US07405228B2
Preparation of (R)-{3-[4-(4-oxo-3-fluoropiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-alcohol
To the mixture of (R)-{3-[4-(4,4-dimethoxy-3-fluoropiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-alcohol (0.726 mmol), freshly fused zinc chloride (2.17 mmol), dimethyl sulphide (3.2 mmol), acetyl chloride (2.17 mmol) in tetrahydrofuaran (50 ml) was stirred at 40° C. for 4 days. To this reaction mixture extracted with the ethyl acetate water mixture and organic layer was dried over sodium sulfate. The removal of the solvent afforded a residue, which was chromatographed over silica gel afforded title compound in 54% yield.

reactant | (R)-{3-[4-(4,4-dimethoxy-3-fluoropiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-alcohol | 0.726 mmol | COC1(C(CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CO)=O)F)F)OC | C17H22F2N2O5
reactant | dimethyl sulphide | 3.2 mmol | CSC | C2H6S
reactant | acetyl chloride | 2.17 mmol | C(C)(=O)Cl | C2H3ClO
product | (R)-{3-[4-(4-oxo-3-fluoropiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-alcohol | 54% yield | O=C1C(CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CO)=O)F)F | C15H16F2N2O4
